US05059597
a) trans-1-Benzyl-4-hydroxy-3-(2-hydroxyethylamino)pyrrolidine
40 g (0.22 mol) of 3-benzyl-6-oxa-3-azabicyclo[3.1.0]hexane are heated under reflux with 42 g (0.68 mol) of 2-aminoethanol in 450 ml of water overnight. The solution is extracted once with tert.-butyl methyl ether and the aqueous phase is concentrated. The residue is distilled.

reactant | 3-benzyl-6-oxa-3-azabicyclo[3.1.0]hexane | 0.22 mol, 40 g | C(C1=CC=CC=C1)N1CC2OC2C1 | C11H13NO
reactant | 2-aminoethanol | 0.68 mol, 42 g | NCCO | C2H7NO
solvent | water | 450 ml | O | H2O
product | trans-1-Benzyl-4-hydroxy-3-(2-hydroxyethylamino)pyrrolidine | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)O)NCCO | C13H20N2O2
